US06303783B1
Preparation of 2′-Chloro-5′-[3,6-dihydro-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4′-fluoroacetanilide
A mixture of 5′ -amino-2′-chloro-4′-fluoroacetanilide (1.0 g, 4.9 mmol) and 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one (1.0 g, 4.9 mmol) in acetic acid is refluxed for 90 minutes and diluted with water. The resultant aqueous mixture is filtered to obtain the title product as an off-white solid (1.4 g, mp 264-266° C.) which is identified by 1H, 13C and 9F NMR spectral analyses.

reactant | 5′ -amino-2′-chloro-4′-fluoroacetanilide | 4.9 mmol, 1.0 g | NC=1C(=CC(=C(NC(C)=O)C1)Cl)F | C8H8ClFN2O
reactant | 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one | 4.9 mmol, 1.0 g | CN(C=1OC(C=C(N1)C(F)(F)F)=O)C | C7H7F3N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2′-Chloro-5′-[3,6-dihydro-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4′-fluoroacetanilide | 1.4 g | ClC1=C(NC(C)=O)C=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O | C13H8ClF4N3O3
